US07932270B2
To (R)-5-(hydroxymethyl)pyrrolidin-2-one (660 mg, 5.73 mmol), hydrogen azide (10.8 mL, 8.60 mmol, 0.8 M in toluene), and PPh3 (2.25 g, 8.60 mmol) in THF was added DIAD dropwise. The mixture was stirred at rt for 1 h. LCMS indicated the completion of the reaction. The mixture was partially concentrated, filtered, and purified by RP-HPLC to give (R)-5-(azidomethyl)pyrrolidin-2-one (730 mg, 87%, 90% pure). LRMS (M+H+) m/z 141.1.

reactant | (R)-5-(hydroxymethyl)pyrrolidin-2-one | 5.73 mmol, 660 mg | OC[C@H]1CCC(N1)=O | C5H9NO2
reactant | hydrogen azide | 8.60 mmol, 0.8 M, 10.8 mL | N=[N+]=[N-] | HN3
reactant | PPh3 | 8.60 mmol, 2.25 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | C1CCOC1 | C4H8O
product | (R)-5-(azidomethyl)pyrrolidin-2-one | 730 mg | N(=[N+]=[N-])C[C@H]1CCC(N1)=O | C5H8N4O
